US06207668B1
1.) 5-Chloro-6-ethyl-4-(2-methyltetrahydrofuran-4-ylamino)pyrimidine
1.5 g of 4,5-dichloro-6-ethylpyrimidine (8.5 mmol), 0.86 g (8.5 mmol) of 4-amino-2-methyltetrahydrofuran (prepared from 2-methyltetrahydrofuran4-ol analogously to the route given for Example A) and 2 ml (14 mmol) of triethylamine were heated for 6 hours at 85° C. After cooling, the mixture was diluted with water and extracted with ether, and the organic phase was washed with saturated NaCl solution. After drying and concentrating, the residue was purified by column chromatography using petroleum ether/ethyl acetate (8:2, 7:3). This gave 1.73 g (84% of theory) of a colorless oil (diastereomers 2:1).

reactant | 4,5-dichloro-6-ethylpyrimidine | 8.5 mmol, 1.5 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 4-amino-2-methyltetrahydrofuran | 8.5 mmol, 0.86 g | NC1CC(OC1)C | C5H11NO
reactant | 2-methyltetrahydrofuran4-ol | CC1OCC(C1)O | C5H10O2
reactant | triethylamine | 14 mmol, 2 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-Chloro-6-ethyl-4-(2-methyltetrahydrofuran-4-ylamino)pyrimidine | ClC=1C(=NC=NC1CC)NC1CC(OC1)C | C11H16ClN3O
